US09024027B2
A solution of tert-butyl 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetate (0.926 g, 2.51 mmol) and TFA (3 ml, 38.9 mmol) in DCM (10 ml) was stirred at room temperature for 4 hours. The volatiles were removed under vacuum affording 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetic acid which was used as such in the next step (1.29 g, 4.13 mmol).MS/ESI+ 312.9 [MH]+.

reactant | tert-butyl 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetate | 2.51 mmol, 0.926 g | CN(S(=O)(=O)C=1C=C2C(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)=O)C | C16H20N2O6S
reactant | TFA | 38.9 mmol, 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetic acid | CN(S(=O)(=O)C=1C=C2C(C(N(C2=CC1)CC(=O)O)=O)=O)C | C12H12N2O6S
